US08809267B2
A solution of 1-tert-butoxycarbonylamino-2-propyl-cyclopropanecarboxylic acid methyl ester (0.27 mmol) in THF (0.5 mL) was treated with 4M HCl in dioxane (2.4 mmol HCl). After 2 h, the volatiles are removed in vacuo to afford 1-amino-2-propyl-cyclopropanecarboxylic acid methyl ester hydrochloride salt as an amorphous white solid that was used without further purification (0.053 g, quant). LCMS found 157.9 ([M+H]+.

reactant | 1-tert-butoxycarbonylamino-2-propyl-cyclopropanecarboxylic acid methyl ester | 0.27 mmol | COC(=O)C1(C(C1)CCC)NC(=O)OC(C)(C)C | C13H23NO4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 2.4 mmol | O1CCOCC1 | C4H8O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1-amino-2-propyl-cyclopropanecarboxylic acid methyl ester hydrochloride salt | Cl.COC(=O)C1(C(C1)CCC)N | InChI=1S/C8H15NO2.ClH/c1-3-4-6-5-8(6,9)7(10)11-2;/h6H,3-5,9H2,1-2H3;1H
